data/specific_train_final.csv
"CCC(=O)CC[CH2:10].[O:20][O]>>CCC(=O)CC[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO)C(C)[O:20].[N+:10](=O)[O-]>>CC(CO)C(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCOC(C)O[O:20].[N+](=O)([O-])[O:10]>>CCOC(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]OC(C)(C)C.[OH:10]>>[H:20][OH:10].CC(C)(C)O[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C(COO[O:20][N+:21](=O)[O-])O)O>>CC(C)(C(COO[O:20])O)O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(CO[N+](=O)[O-])[O:20][O:21]N=O>>CCCCC(CO[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC1(CC2C1CCC(C(CCC2=C)O)(C)O[O:10])C>>[H:20][O:10]OC1(CCC2C(CC2(C)C)C(=C)CCC1O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(CO[O:20])OC.[N:10]=O>>CC(C)(CO[O:20][N:10]=O)OC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(CCl)[O:20][O:21]N=O>>C(CCl)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(CO)[O:20].[N+:10](=O)[O-]>>CCC(C)(CO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=C(C(C([CH:20]=[C:21]1O)O)O[O:10])C>>CCC1=C(C2C([CH:20]([C:21]1O)[O:10]O2)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(=CC(=O)O[O:20])CO[N+](=O)[O-].[N:10]=O>>CC(=CC(=O)O[O:20][N:10]=O)CO[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)[CH2:10].[O:20][O]>>CC(C)(C)[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:7][CH:3]([CH2:2][OH:1])[CH:4]([CH3:5])[O:6].[N:9](=[O:10])[O:8]>>[CH3:7][CH:3]([CH2:2][OH:1])[CH:4]([CH3:5])[O:6].[N+:9](=[O:10])[O-:8] 9-8,Room Temperature,Propagation,ha resonance
"[CH2:9]([CH2:8][O:7][CH2:6][O:5][O:4][O:3][N+:2](=[O:1])[O-:11])[OH:10]>>[CH2:9]([CH2:8][O:7][CH2:6][O:5][O:4][O:3])[OH:10].[N+:2](=[O:1])[O-:11] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CCC(C)(C[O:20][O:21]N=O)O[N+](=O)[O-]>>CCC(C)(C[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCC(C)O[O:10]>>[H:20][O:10]OC(C)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[C:20]1(C=CC2C([CH:21]1O)(O2)C)[O:10]>>CC[C:20](=[O:10])C=CC1C(O1)([CH:21]O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC1=C(C(=CC=C1)COO[O:20][N+:21](=O)[O-])C>>CC1=C(C(=CC=C1)COO[O:20])C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[O-][N+:2]=O.[O:1]OC/C=C(CO)\C>>[O-][N+:2]([O:1]OC/C=C(C)/CO)=O 1-1,2;2-2,1",Room Temperature,Termination,recombine
"CCC(=O)C(C)[O:21][O:20][O].[N+](=O)[O-]>>CCC(=O)C(C)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[O:1][O:2][O:3][Cl:4]>>[O:1][O:2].[O:3][Cl:4] 2,3-3;2,3-2",Room Temperature,Initiation,homolyze
"CC(CO[N+](=O)[O-])O[O:20].[N:10]=O>>CC(CO[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=CC(C(C1O)OO2)(C)O[O:20].[N+](=O)([O-])[O:10]>>CC12C=CC(C(C1O)OO2)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C/[C:21]([CH2:20][O:10][H])=[CH:22]\[CH2:23][O:30].[O-:31][N+:40]=[O:41]>>C/[C:21]([CH2:20][O:10][H])=[CH:22]\[CH2:23][O:30][N+:40]([O-:31])=[O:41] 30-30,40;40-30,40",Room Temperature,Termination,recombine
"[H:20][CH:21](C)CCOC(=O)C.[OH:10]>>[H:20][OH:10].C[CH:21]CCOC(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC1(C2CC1C(C(C2)O[N+]([O-])=O)(C)O[O:10])C>>[H:20][O:10]OC1(C2CC(C2(C)C)CC1O[N+]([O-])=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)C(C)[O:20][O:21]N=O>>CCC(C)C(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C(C)O[O:20])O.[N:10]=O>>CCC(C(C)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(COC(=O)C)O[O:20].[N:10]=O>>CC(COC(=O)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21]1(C=CC=C[C:22]1CC)O.[O:10][O]>>[H:20][O:10][O].CC[C:22]1=[C:21](C=CC=C1)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][CH:21]([O:22])OCCO.[OH:10]>>[H:20][OH:10].C(CO[CH:21]=[O:22])O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][O:21][O].CC(=O)OCO[O:10]>>[H:20][O:10]OCOC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C(C)C.[OH:10]>>[H:20][OH:10].CC(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
